US06156700
Preparation of 1-Methyl-3-{3-[(methylsulfonyl)methyl]-1,2-benzisothiazol-5-yl}-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A mixture of 1-methyl-3-{3-[(methylsulfinyl)methyl]-1,2-benzisothiazol-5-yl}-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (0.480 g, 1.24 mmol) and 3-chloroperoxybenzoic acid (0.600 g, 60%, 2.10 mmol) in methylene chloride is stirred at room temperature for four hours, washed with 5% sodium carbonate solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a solid. Flash column chromatography of the solid using silica gel and a 10% diethyl ether in methylene chloride solution gives the title product as a white solid which is identified by NMR spectral analyses.

reactant | 1-methyl-3-{3-[(methylsulfinyl)methyl]-1,2-benzisothiazol-5-yl}-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 1.24 mmol, 0.480 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)CS(=O)C)C1)=O | C15H12F3N3O3S2
reactant | 3-chloroperoxybenzoic acid | 2.10 mmol, 0.600 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Methyl-3-{3-[(methylsulfonyl)methyl]-1,2-benzisothiazol-5-yl}-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)CS(=O)(=O)C)C1)=O | C15H12F3N3O4S2
